US07763639B2
4-[2-FLUORO-3-(2-METHYL-1,3-DIOXOLAN-2-YL)PHENYL]PYRIDINE
A mixture of 1-(2-fluoro-3-pyridin-4-ylphenyl)ethanone (1.28 g, 5.95 mmol), ethylene glycol (1.66 ml, 29.75 mmol), molecular sieves (5 g, 3 Å) and p-toluenesulfonic acid monohydrate (0.11 g, 0.59 mmol) in toluene (20 ml) was heated at reflux for 2 h. The molecular sieves was filtered off and the residue was evaporated to dryness. Purification by flash column chromatography (ethyl acetate) gave the title compound (1.0 g). MS m/z (rel. intensity, 70 eV) 259 (M+, 1), 245 (15), 244 (bp), 200 (56), 87 (17).

reactant | 1-(2-fluoro-3-pyridin-4-ylphenyl)ethanone | 5.95 mmol, 1.28 g | FC1=C(C=CC=C1C1=CC=NC=C1)C(C)=O | C13H10FNO
reactant | ethylene glycol | 29.75 mmol, 1.66 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.59 mmol, 0.11 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-FLUORO-3-(2-METHYL-1,3-DIOXOLAN-2-YL)PHENYL]PYRIDINE | 1.0 g | FC1=C(C=CC=C1C1(OCCO1)C)C1=CC=NC=C1 | C15H14FNO2
